US07947834B2
0.92 g of the methyl ester of 4-(3,4-dihydro-2H-quinoxalin-1-yl)-2-methoxybenzoic acid and 15 ml of dichloromethane are introduced into a three-necked flask equipped with a magnetic stirrer and placed under an inert atmosphere. After cooling to +4° C., 1.92 ml of triethylamine and 0.33 g of triphosgene are successively added. The reaction medium is stirred at ambient temperature for 3 h. 0.64 g of 4-pyrrolidin-3-yl-1H-pyrazole dihydrochloride is then introduced and the mixture is stirred at ambient temperature for 18 h. The reaction medium is washed with a saturated aqueous sodium hydrogencarbonate solution; the organic phase is dried over sodium sulfate and concentrated under reduced pressure. The residue is chromatographed on silica gel eluted with a gradient of methanol from 2% to 4% in dichloromethane. The product obtained is rechromatographed on silica gel eluted with a dichloromethane/methanol 99/1 to 92/8 gradient. 1.06 g of 2-methoxy-4-{4-[3-(1H-pyrazol-4-yl)pyrrolidine-1-carbonyl]-3,4-dihydro-2H-quinoxalin-1-yl}benzoic acid methyl ester are obtained.

reactant | 4-(3,4-dihydro-2H-quinoxalin-1-yl)-2-methoxybenzoic acid | N1(CCNC2=CC=CC=C12)C1=CC(=C(C(=O)O)C=C1)OC | C16H16N2O3
reactant | dichloromethane | 15 ml | ClCCl | CH2Cl2
reactant | triphosgene | 0.33 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 4-pyrrolidin-3-yl-1H-pyrazole dihydrochloride | 0.64 g | Cl.Cl.N1CC(CC1)C=1C=NNC1
solvent | triethylamine | 1.92 ml | C(C)N(CC)CC | C6H15N
product | 2-methoxy-4-{4-[3-(1H-pyrazol-4-yl)pyrrolidine-1-carbonyl]-3,4-dihydro-2H-quinoxalin-1-yl}benzoic acid methyl ester | 1.06 g | COC(C1=C(C=C(C=C1)N1CCN(C2=CC=CC=C12)C(=O)N1CC(CC1)C=1C=NNC1)OC)=O | C25H27N5O4
